US06642256B2
2-Oxo-2,3-dihydrobenzoxazole-6-carboxylic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide (686 mg, 1.31 mmol) and Lawesson's reagent (530 mg, 1.31 mmol) in dioxane (5 mL) were heated under reflux conditions for 2 hours. The solvent was removed, and the product was purified by chromatography (silica gel, 0-50% EtOAc in heptane) to give 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide (559 mg, 79%): as a green gum:

reactant | 2-Oxo-2,3-dihydrobenzoxazole-6-carboxylic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide | 1.31 mmol, 686 mg | C(C1=CC=CC=C1)C1CCN(CC1)CC(CNC(=O)C1=CC2=C(NC(O2)=O)C=C1)O[Si](C)(C)C(C)(C)C | C29H41N3O4Si
reactant | Lawesson's reagent | 1.31 mmol, 530 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide | 559 mg, 79% | C(C1=CC=CC=C1)C1CCN(CC1)CC(CNC(=S)C1=CC2=C(NC(O2)=O)C=C1)O[Si](C)(C)C(C)(C)C | C29H41N3O3SSi
